US09302991B2
<Step-1>:tert-butyl (1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate (single enantiomer
A mixture of (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (200 mg, 0.78 mmol, Amine-1, single enantiomer), di-tert-butyldicarbonate (0.18 mL, 0.78 mmol), and triethylamine (0.22 mL, 1.56 mmol) in dichloromethane (5 mL) is stirred at room temperature for 1 hour. After removal of the solvent, the residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (4:1) to give 221 mg (89% yield) of the title compound as a white solid.

reactant | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.78 mmol, 200 mg | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F
reactant | di-tert-butyldicarbonate | 0.78 mmol, 0.18 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.56 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl (1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate | 221 mg, 89% yield | FC(COC1=CC=C(C=N1)C(C)NC(OC(C)(C)C)=O)(F)F | C14H19F3N2O3
